US08871756B2
4-[6-Methyl-4-(phenylsulfanyl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (1.8 g, 5.0 mmol, prepared in analogy to the one in Example 17-1), benzenethiol (0.66 g, 6.0 mmol) and N,N-dimethylpyridin-4-amine (0.74 g, 6 mmol) in dry ethanol (40 mL) was stirred at room temperature for 3 days. The reaction mixture was filtered and concentrated in vacuo. The residue was purified by silica gel column (gradient eluting with 10-20% ethyl acetate in hexanes) to afford 1.0 g of the desired product (yield was 45%).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | benzenethiol | 6.0 mmol, 0.66 g | C1(=CC=CC=C1)S | C6H6S
catalyst | N,N-dimethylpyridin-4-amine | 6 mmol, 0.74 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-[6-Methyl-4-(phenylsulfanyl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 1.0 g, yield was 45% | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)SC2=CC=CC=C2 | C25H22N2O2S2
